US07772223B2
Sulfamic acid 2-Cyclopentyl-Ethyl Ester
To chlorosulfonyl isocyanate (275 mL, 3.15 mol) at 0° C. was added formic acid (119 mL, 3.15 mol), dropwise. The resulting solid was allowed to stir at 0° C. for a further 20 minutes. The residue was diluted with dichloromethane (875 mL) and warmed to room temperature for one hour. The reaction mixture was cooled in an ice/salt bath and a solution of 2-cyclopentyl ethanol (240 g, 2.1 mol) in pyridine (255 mL, 3.15 mol) and dichloromethane (2.1 L) was added, keeping the temperature below 7° C. After 2 hours, the reaction was concentrated in vacuo, diluted with ethyl acetate, washed with saturated sodium bicarbonate solution and brine. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to give a colourless oil. The residue was purified by column chromatography on silica gel, eluting with 90:10 to 50:50 heptane:ethyl acetate, to afford the title compound as a colourless oil in 95% yield (276 g).

reactant | chlorosulfonyl isocyanate | 3.15 mol, 275 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | formic acid | 3.15 mol, 119 mL | C(=O)O | CH2O2
reactant | 2-cyclopentyl ethanol | 2.1 mol, 240 g | C1(CCCC1)CCO | C7H14O
reactant | pyridine | 3.15 mol, 255 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 875 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.1 L | ClCCl | CH2Cl2
product | Sulfamic acid 2-Cyclopentyl-Ethyl Ester | 95% yield | C1(CCCC1)CCOS(N)(=O)=O | C7H15NO3S
